US06258982B1
5.9 kg of 5% Pt/C catalyst 5% (H2O content: 62.8%) are placed in a 60-liter steel vessel together with 12 liters of water, and 470 g of 50% H3PO2 solution (≡5% phosphorus based on the catalyst) are added. The catalyst slurry is stirred for 10 minutes at room temperature, then 360 g of vanadylacetylacetonate VO(acac)2 as is (0.2 mol %) are added and the mixture is stirred for a further 5 minutes. 550 kg of a solution of 2-(chloro-5-nitro-benzoyl-oxy)-2-methyl-propionic acid allyl ester (content: 40%, 0.67 kmol) in toluene are placed in an autoclave having a stirrer and the catalyst suspension is added, rinsing the steel vessel with 15 kg of water. Hydrogenation is then carried out for 2 hours at a temperature of 100° C. and a hydrogen pressure of 5 bar. After cooling and rendering the autoclave inert using nitrogen, the catalyst is filtered off at 50° C. and washed with 50 kg of toluene. After working up by distillation, 196 kg of 2-(chloro-5-amino-benzoyloxy)-2-methyl-propionic acid allyl ester (yield 98% of theory) are obtained. The over-hydrogenated propyl ester content is <0.05%.

reactant | water | 12 liters | O | H2O
reactant | H3PO2 | 470 g | O[PH2]=O | H3O2P
reactant | phosphorus | [P] | P
reactant | 2-(chloro-5-nitro-benzoyl-oxy)-2-methyl-propionic acid allyl ester | 0.67 kmol | C(C=C)OC(C(C)(C)OC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)=O | C14H14ClNO6
catalyst | Pt/C | 5.9 kg | [Pt] | Pt
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(chloro-5-amino-benzoyloxy)-2-methyl-propionic acid allyl ester | 196 kg, yield 98% | C(C=C)OC(C(C)(C)OC(C1=C(C=CC(=C1)N)Cl)=O)=O | C14H16ClNO4
